US04261926
Amounts of 24.2 g (0.20 mole) of 3,4-xylidine 38.4 g (0.44 mole) of diethyl ketone, 1.2 g of 5% platinum on carbon, and 0.26 g (2 mole %) of glacial acetic acid were charged to an autoclave and the autoclave was sealed, evacuated, purged with hydrogen and then pressurized with hydrogen to 50 psi. The temperature of the autoclave was raised to 60° C. and held at 60°-68° C. for 0.9 hours (very little, if any, hydrogen was being absorbed at this point). The autoclave was vented and the product filtered to separate the catalyst. The lower, aqueous phase, of the filtrate was separated and the upper, organic phase, was evaporated to constant weight of 35.0 g. Analysis of the residue showed it to be 78.8% pure, corresponding to 28.7 g of N-3-pentyl-3,4-xylidine (72.2% yield).

reactant | 3,4-xylidine | 0.20 mole, 24.2 g | NC1=CC(=C(C=C1)C)C | C8H11N
reactant | diethyl ketone | C(C)C(=O)CC | C5H10O
catalyst | platinum on carbon | 1.2 g | [Pt] | Pt
solvent | acetic acid | 0.26 g | C(C)(=O)O | C2H4O2
product | N-3-pentyl-3,4-xylidine | 28.7 g, 72.2% yield | CCC(CC)NC1=CC(=C(C=C1)C)C | C13H21N
